US07645784B2
A solution of 3-amino-2-[(2-hydroxyethyl)amino]-N,N-dimethylbenzenesulfonamide (69 mg, 0.266 mmol) in formic acid (2 mL) and 2 M hydrochloric acid (2 mL) was heated at reflux for 1 h. The volatiles were removed in vacuo, and the residue was partitioned between an aqueous sodium hydroxide solution and ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated in vacuo affording 1-(2-hydroxyethyl)-N,N-dimethyl-1H-benzimidazole-7-sulfonamide, 66 mg. MS (ES) m/z 270 [M+H]+.

reactant | 3-amino-2-[(2-hydroxyethyl)amino]-N,N-dimethylbenzenesulfonamide | 0.266 mmol, 69 mg | NC=1C(=C(C=CC1)S(=O)(=O)N(C)C)NCCO | C10H17N3O3S
reactant | formic acid | 2 mL | C(=O)O | CH2O2
solvent | hydrochloric acid | 2 M, 2 mL | Cl | ClH
product | 1-(2-hydroxyethyl)-N,N-dimethyl-1H-benzimidazole-7-sulfonamide | OCCN1C=NC2=C1C(=CC=C2)S(=O)(=O)N(C)C | C11H15N3O3S
